US06172057B2
4-(4-Methoxy-benzenesulfonyl)-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-piperidine-4-carboxylic acid was prepared starting from 4-(4-Methoxy-benzenesulfonyl)-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-piperidine-4-carboxylic acid ethyl ester (5.4 g, 10 mmol) dissolved in THF:methanol 3:1 and 10 N NaOH (40 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 4.0 g (77%); off white powder; mp 174° C.; MS: 517.6 (M+H)+.

reactant | 4-(4-Methoxy-benzenesulfonyl)-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-piperidine-4-carboxylic acid ethyl ester | 10 mmol, 5.4 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)OCCN1CCCCC1)S(=O)(=O)C1=CC=C(C=C1)OC | C29H40N2O6S
solvent | THF methanol | C1CCOC1.CO
solvent | NaOH | 10 N, 40 ml | [OH-].[Na+]
product | 4-(4-Methoxy-benzenesulfonyl)-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-piperidine-4-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CC1=CC=C(C=C1)OCCN1CCCCC1)C(=O)O | C27H36N2O6S
